US05506256
D) (2S)-2-(1-Hydroxy-2-phenoxyethyl)-1-[N-(phenoxyacetyl)-L-prolyl]pyrrolidin
(2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine (996 mg) was dissolved in 4N hydrochloric acid/1,4-dioxane (12 ml), and the mixture was stirred at room temperature for 40 minutes. The reaction mixture was concentrated to dryness, and the residue obtained was dissolved in methylene chloride (10 ml). After triethylamine (0.68 ml) was added thereto under ice-cooling, phenoxyacetyl chloride (0.34 ml) was dropwise added. After stirring the mixture under ice-cooling for 0.5 hour, and then at room temperature for 1.5 hours, the reaction mixture was poured into ice-water, and extracted with methylene chloride. The organic layer was washed with saturated aqueous sodium bicarbonate, and saturated brine successively, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (eluate: chloroform-methanol) to give 1.05 g of the title compound.

reactant | (2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine | 996 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=CC=C2)O)CCC1 | C22H32N2O5
reactant | triethylamine | 0.68 ml | C(C)N(CC)CC | C6H15N
reactant | phenoxyacetyl chloride | 0.34 ml | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
solvent | hydrochloric acid 1,4-dioxane | 4N, 12 ml | Cl.O1CCOCC1
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (2S)-2-(1-Hydroxy-2-phenoxyethyl)-1-[N-(phenoxyacetyl)-L-prolyl]pyrrolidin | 1.05 g | OC(COC1=CC=CC=C1)[C@H]1N(CCC1)C([C@H]1N(CCC1)C(COC1=CC=CC=C1)=O)=O | C25H30N2O5
